* C:\Users\austi\Desktop\Git Repositories\LLC-DCDC\Resonant Simulation.asc
* Generated by LTspice 24.1.10 for Windows.
V1 N004 0 PULSE(0 54 0 1n 1n 1.25e-6s 2.56e-6s)
C1 N001 N004 1.09E-05
L1 N002 0 3.48e-7
L2 N003 N005 5.8e-8
R1 N003 N005 .36
L3 N001 N002 1.45E-08
.tran 1ms
K1 L1 L2 1
.backanno
.end
